US09290487B2
Step 1 8-bromo-4H-benzoxazin-3-one
2-Amino-6-bromophenol (1.0 g, 5.32 mmol) was dissolved in DMF (20 mL), and potassium carbonate (1.6 g, 11.7 mmol) and chloroacetyl chloride (0.466 mL, 5.85 mmol) were added thereto, and stirred at room temperature overnight. After diluted with ethyl acetate, the resultant was washed with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was distilled away, and the residue washed with an ethyl acetate-hexane mixture solvent to thus obtain the title compound.

reactant | 2-Amino-6-bromophenol | 5.32 mmol, 1.0 g | NC1=C(C(=CC=C1)Br)O | C6H6BrNO
reactant | potassium carbonate | 11.7 mmol, 1.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetyl chloride | 5.85 mmol, 0.466 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-bromo-4H-benzoxazin-3-one | yield: 91% | BrC1=CC=CC=2CC(NOC21)=O | C8H6BrNO2
